Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17],-2.8795456177700003
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],1.71455282819
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5],3.4074647281299995
[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.2655156139700003
[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1][O:2][C:3][H:4],7.8240293198399975
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.96902433013
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.69248522519
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]([H:7])([H:8])[C:9][H:10],4.029370278380001
[H:1][C:2]1[O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:4]([O:3]/[C:2]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],0.81603249625
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.50030614809
[H:1][C:2](=[O:3])[C:9]([O:8][C:4]=[C:5]([H:6])[H:7])([H:10])[H:11]>>[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-1.19244608848
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],5.50654741809
[C:1][O:2][C:3]#[C:4][C:5]([C:6])([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4].[C:5](=[C:6])([H:7])[H:8],1.08974380077
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.78962085287
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.90326099655
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.9041384532700003
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2][C:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[H:9],0.33596623789
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6],5.2778810628800015
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.907275069811
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]#[C:12][H:13],4.10566033235
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.86741326432
[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-3.03757164366
[C:1]#[C:2][C:9]([C:3][O:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[C:1]=[C:2]1[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11],-1.3071060336
[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.514680365159999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1,2.5727786920900004
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.72299805749
[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.15468160479
